US04665085
Preparation of 2-methyl-4-hydroxy-anilino-methyl-2-imidazoline hydrochloride (Compound 13)
Two moles 4-amino-m-cresol and 1 mole 2-chloromethyl-2-imidazoline hydrochloride are refluxed for 3 hours, within absolute ethanol. After cooling, the insoluble fraction is suction filtered and the ethanol solution is evaporated in vacuo. The evaporation residue is recrystallized from methanol:diethyl ether; M.p.=205°-207° C.

reactant | 4-amino-m-cresol | Two moles | NC=1C(=CC(=CC1)O)C | C7H9NO
reactant | 2-chloromethyl-2-imidazoline hydrochloride | 1 mole | Cl.ClCC=1NCCN1
reactant | ethanol | C(C)O | C2H6O
product | 2-methyl-4-hydroxy-anilino-methyl-2-imidazoline hydrochloride | Cl.CC1=C(NC=2N(CCN2)C)C=CC(=C1)O | InChI=1S/C11H15N3O.ClH/c1-8-7-9(15)3-4-10(8)13-11-12-5-6-14(11)2;/h3-4,7,15H,5-6H2,1-2H3,(H,12,13);1H
